US05763134
A mixture of 12 grams (37.1 mmol, 1.0 eq) of 2-methoxy-4-(phenylamino)benzenediazonium hydrogen sulfate (TCI America, Portland, Org.) in 600 mL of water was heated to 35°-40° C. and then filtered. To the filtrate was added a solution of 9.6 grams (52.0 mmol, 1.4 eq) of potassium hexafluorophosphate in 220 mL of water and a precipitate formed immediately. The mixture was stirred for 2 hours and collected by filtration, washed with water and then with approximately 100 mL of isopropanol and air dried to give 12.05 grams (87.5% yield) of 2-methoxy-4-phenylaminobenzenediazonium hexafluorophosphate.

reactant | 2-methoxy-4-(phenylamino)benzenediazonium hydrogen sulfate | 37.1 mmol, 12 grams, 1.0 eq | S(=O)(=O)(O)[O-].COC1=C(C=CC(=C1)NC1=CC=CC=C1)[N+]#N
reactant | potassium hexafluorophosphate | 52.0 mmol, 9.6 grams, 1.4 eq | F[P-](F)(F)(F)(F)F.[K+]
solvent | water | 600 mL | O | H2O
solvent | water | 220 mL | O | H2O
product | 2-methoxy-4-phenylaminobenzenediazonium hexafluorophosphate | 12.05 grams, 87.5% yield | F[P-](F)(F)(F)(F)F.COC1=C(C=CC(=C1)NC1=CC=CC=C1)[N+]#N | InChI=1S/C13H12N3O.F6P/c1-17-13-9-11(7-8-12(13)16-14)15-10-5-3-2-4-6-10;1-7(2,3,4,5)6/h2-9,15H,1H3;/q+1;-1
